US07101900B2
b) 0-cyclopropylmethyl (2,6-dichlorophenyl)acetamidoxime
10.0 g (46 mmol) of (2,6-dichlorophenyl)acetamidoxime in 40 ml of dimethylformamide were admixed with 6.5 g (48 mmol) of cyclopropylmethyl bromide. The mixture was cooled to −20° C. and admixed dropwise with 5.4 g (48 mmol) of potassium tert-butoxide in 20 ml of dimethylformamide. The mixture was stirred at −20° C. for 1 h and then at room temperature overnight, poured into aqueous sodium dihydrogen phosphate buffer (pH 6) and extracted 5 times with diethyl ether. The combined extracts were washed twice with water and once with saturated sodium chloride solution, dried over sodium sulfate and concentrated under reduced pressure. Yield: 12.3 g of a yellow oil which was reacted further without any further purification.

reactant | (2,6-dichlorophenyl)acetamidoxime | 46 mmol, 10.0 g | ClC1=C(C(=CC=C1)Cl)CC(N)=NO | C8H8Cl2N2O
reactant | cyclopropylmethyl bromide | 48 mmol, 6.5 g | C1(CC1)CBr | C4H7Br
reactant | potassium tert-butoxide | 48 mmol, 5.4 g | CC(C)([O-])C.[K+]
reactant | sodium dihydrogen phosphate | pH 6 | P(=O)(O)(O)[O-].[Na+]
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 0-cyclopropylmethyl (2,6-dichlorophenyl)acetamidoxime | C1(CC1)CC1(C(C(=CC=C1)Cl)CC(N)=NO)Cl | C12H16Cl2N2O
